US05114949
A mixture of 4-(3-indolylmethyl)piperidine (0.4 g), 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (0.53 g), sodium hydrogen carbonate (0.17 g) and dimethylformamide (10 cc) is brought to reflux for 12 hours. After evaporation to dryness at 80° C. under reduced pressure (20 mm Hg; 2.7 kPa), the residue is taken up with water (30 cc) and extracted with ethyl acetate (2×50 cc). The combined organic phases are dried over magnesium sulphate and taken to dryness at 80° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by flash chromatography on a silica column under a stream of nitrogen at moderate pressure (0.5-1.5 bar) with a dichloromethane/methanol mixture (99:1 by volume) as eluent. 2-{2-[4-(3-Indolylmethyl)piperidino]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (0.4 g), m.p. 184° C., is obtained.

reactant | 4-(3-indolylmethyl)piperidine | 0.4 g | N1C=C(C2=CC=CC=C12)CC1CCNCC1 | C14H18N2
reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 0.53 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | sodium hydrogen carbonate | 0.17 g | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | 2-{2-[4-(3-Indolylmethyl)piperidino]ethyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 0.4 g | N1C=C(C2=CC=CC=C12)CC1CCN(CC1)CCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H27N3O2S
